US07709583B2
Synthesis of 5-norbornene-2,3-dicarboxylic acid isopropyl ester
27.1 g (0.2 mol) of dicyclopentadiene and 80.4 g (0.4 mol) of diisopropylfumarate were charged in a 200 ml autoclave, and after sufficiently replacing with nitrogen, reaction was conducted at 170° C. for 5 hours. The reaction liquid was distilled under reduced pressure of 0.4 kPa to obtain 88 g of a fraction of 124-126° C. It was confirmed by 1H-NMR spectrum and GC-MS that this fraction is 5-norbornene-2,3-dicarboxylic acid diisopropyl ester. Yield: 83%.

reactant | dicyclopentadiene | 0.2 mol, 27.1 g | C1C=CC2C1C3CC2C=C3 | C10H12
reactant | diisopropylfumarate | 0.4 mol, 80.4 g | C(C)(C)\C(=C(/C(=O)[O-])\C(C)C)\C(=O)[O-]
reactant | 5-norbornene-2,3-dicarboxylic acid diisopropyl ester | C(C)(C)OC(=O)C1C2C=CC(C1C(=O)OC(C)C)C2 | C15H22O4
product | 5-norbornene-2,3-dicarboxylic acid isopropyl ester | Yield: 83% | C(C)(C)OC(=O)C1C2C=CC(C1C(=O)O)C2 | C12H16O4
